*** CMOS Inverter - safe prefixes ***

VIN in 0 0
VDD_S vdd 0 0.9

.include /home/rylan/projects/sim-lab/osdi_libs/bsimcmg_modelcards/modelcard.nmos
.include /home/rylan/projects/sim-lab/osdi_libs/bsimcmg_modelcards/modelcard.pmos

NPD1 out in 0 0 nmos
NPU1 out in vdd vdd pmos

.control
dc VIN 0 0.9 0.002
let vout = v(out)
print vout[0] vout[100] vout[200] vout[300] vout[400] vout[450]
let diff = vout - in
meas dc vtrip WHEN diff=0 CROSS=1
write /tmp/vtc_test.txt vout in
quit
.endc
.end
